US04227006
A mixture of 1.0 gram of N2 -dansyl-L-arginine and 1.4 gram of p-toluenesulfonic acid monohydride in 10 ml of n-hexyl alcohol was heated for 30 minutes at 100° C. To the thus obtained clear solution, 100 ml of benzene was added, and the mixture was refluxed for 3 hours, removing water by azeotropic distillation. After the solvent was removed by distillation, 50 ml of ethyl ether and 50 ml of petroleum ether were added to the residue to give a crystalline mass. Crystallization from acetone gave N2 -dansyl-L-arginine n-hexyl ester di(p-toluenesulfonate) in 95% yield; mp. 190°-193° C.

reactant | N2 dansyl-L-arginine | 1.0 gram | N#N.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | p-toluenesulfonic acid monohydride | 1.4 gram | C1(=CC=C(C=C1)S(=O)=O)C | C7H8O2S
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexyl alcohol | 10 ml | C(CCCCC)O | C6H14O
product | N2 dansyl-L-arginine n-hexyl ester di(p-toluenesulfonate) | 95% yield | N#N.C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CCCCC)OC([C@@H](NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)CCCNC(N)=N)=O | InChI=1S/C24H37N5O4S.2C7H8O3S.N2/c1-4-5-6-7-17-33-23(30)20(13-10-16-27-24(25)26)28-34(31,32)22-15-9-11-18-19(22)12-8-14-21(18)29(2)3;2*1-6-2-4-7(5-3-6)11(8,9)10;1-2/h8-9,11-12,14-15,20,28H,4-7,10,13,16-17H2,1-3H3,(H4,25,26,27);2*2-5H,1H3,(H,8,9,10);/t20-;;;/m0.../s1
